US08754085B2
Step 1: 2,3-Dip-tolylpyrido[2,3-b]pyrazine
A solution of 1,2-dip-tolylethane-1,2-dione (commercially available)(175 g, 733 mmol) and pyridine-2,3-diamine (80 g, 733 mmol) in EtOH (1609 ml) and AcOH (179 ml) was heated to reflux (bath at 85° C.) for 1.5 h. The mixture was allowed to cool and concentrated in vacuo. The crude material was dissolved in DCM (500 ml) and filtered through silica to remove baseline impurities. The silica was washed with EtOAc (2 L). The combined filtrate layers were concentrated in vacuo to give a brown solid. The material was triturated in 1:1 TBME/heptane (300 ml). The solid was removed by filtration and washed with 1:1 TBME/heptane (200 ml) before drying at RT over 2 days to afford the title compound as an AcOH salt (1 eq).

reactant | 1,2-dip-tolylethane-1,2-dione | C1(=CC=C(C=C1)C(C(=O)C1=CC=C(C=C1)C)=O)C | C16H14O2
reactant | pyridine-2,3-diamine | 733 mmol, 80 g | N1=C(C(=CC=C1)N)N | C5H7N3
solvent | EtOH | 1609 ml | CCO | C2H6O
solvent | AcOH | 179 ml | CC(=O)O | C2H4O2
solvent | AcOH | 1 eq | CC(=O)O | C2H4O2
product | 2,3-Dip-tolylpyrido[2,3-b]pyrazine | C1(=CC=C(C=C1)C=1N=C2C(=NC1C1=CC=C(C=C1)C)N=CC=C2)C | C21H17N3
